* Has Developed Bordodynov
*
.subckt CNY70  A k C E Gate params: d=0 rel_CTR0=0.05

.func F(d) 1/(1+0.4*d)**2
* tbl(d, 
*+ 0, 1,
*+ 10, 0.04)
.param rel_CTR=rel_CTR0*F(d)
* V(gate)=1V - 100% (open), V(gate)=0V (close)
VA 3 K 0
D1 A 3 LD
B1 C b i=i(va)*{rel_CTR}*V(Gate)
C1 A K 18p
Q1 C b E [E] NP
.model LD D(Ron=2 Roff=100Meg Vfwd=1.15)
.model NP NPN(Bf=610 Vaf=140 Ikf=15m Rc=1 Cjc=19p Cje=7p Cjs=7p)
.ends CNY70
